US09359371B2
(4) Preparation: (s)-4-((3-chloro-4-methoxybenzyl)amino)-2-(2-(hydroxymethyl)tetrahydropyrrole-1-yl)-5-pyrimidine carboxylic acid
Methanol (50 mL) was added in ethyl (s)-4-((3-chloro-4-methoxybenzyl)amino)-2-(2-(hydroxymethyl)tetrahydropyrrole-1-yl)-5-pyrimidine carboxylate (8.75 g, 20.8 mmol). In water (20 mL) was dissolved sodium hydrate (1.66 g, 41.6 mmol), then the aqueous solution was added to the reaction solution. The reaction was conducted in an oil bath of 50 to 60° C. overnight. The reaction was monitored by LC-MS. The organic solvent was removed by rotary evaporation. The residual aqueous phase was adjusted to a pH of 3 to 4. Then solid was precipitated. The precipitation was filtrated and dried to give a solid (3.9 g, 48.1% yield).

reactant | Methanol | 50 mL | CO | CH4O
reactant | ethyl (s)-4-((3-chloro-4-methoxybenzyl)amino)-2-(2-(hydroxymethyl)tetrahydropyrrole-1-yl)-5-pyrimidine carboxylate | 20.8 mmol, 8.75 g | ClC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)N2[C@@H](CCC2)CO)C=CC1OC | C20H25ClN4O4
reactant | sodium hydrate | 41.6 mmol, 1.66 g | O.[Na]
solvent | water | 20 mL | O | H2O
product | (s)-4-((3-chloro-4-methoxybenzyl)amino)-2-(2-(hydroxymethyl)tetrahydropyrrole-1-yl)-5-pyrimidine carboxylic acid | 3.9 g, 48.1% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)N2[C@@H](CCC2)CO)C=CC1OC | C18H21ClN4O4
